US07462427B2
Step 1: Preparation of 1-Bromo-4-(1,2-dimethylpropyloxy)butane
A solution of 1,4-dibromo-n-butane (119.20 g, 0.0903 mol) in hexane (80 ml) was cooled at 0° C. with a sodium hydroxide aqueous solution (150 ml of solution prepared by mixing 75 g of sodium hydroxide and 150 ml of water) and tert-butylammonium bromide (4.4 mol %, 0.68 g, used as phase transfer catalyst), and a solution of 1,2-dimethylpropan-1-ol (1.27 g, 0.022 mol) in hexane (70 ml) was added dropwise over 1 h with vigorous mechanical stirring. The reaction mixture was allowed to warm to room temperature and left stirring for 2 h, the reaction mixture was then heated under reflux for 4 h. The organic layer was collected and dried (MgSO4) and the solvent was removed in vacuo. The crude oil was purified by column chromatography [DCM-petroleum fraction (bp 40-60° C.), 1:51] to give a colourless oil.

reactant | 1,4-dibromo-n-butane | 0.0903 mol, 119.20 g | BrCCCCBr | C4H8Br2
reactant | sodium hydroxide | 150 ml, 75 g | [OH-].[Na+]
reactant | tert-butylammonium bromide | 0.68 g | [Br-].C(C)(C)(C)[NH3+]
reactant | 1,2-dimethylpropan-1-ol | 0.022 mol, 1.27 g | CC(C(C)C)O | C5H12O
solvent | hexane | 80 ml | CCCCCC | C6H14
solvent | hexane | 70 ml | CCCCCC | C6H14
product | 1-Bromo-4-(1,2-dimethylpropyloxy)butane | BrCCCCOC(C(C)C)C | C9H19BrO
